US08383584B2
Step a: (1-Hydroxymethyl-2-vinylcyclopropyl)-carbamic acid tert-butyl ester (19a)
To a solution of 1-tert-butoxycarbonylamino-2-vinyl-cyclopropanecarboxylic acid ethyl ester (0.51 g, 2.0 mmol) in THF (10 ml) at 0° C. was added a 2M solution of lithiumborohydride (4 ml, 8 mmol). The reaction mixture was monitored by TLC (7:3 hexane-ethyl acetate, stained using ammoniummolybdate-cerium sulfate in aq. 10% sulfuric acid) and after stirring overnight at rt, the reaction was carefully quenched using aq. 10% citric acid (25 ml, dropwise addition at 0° C.). The obtained mixture was washed with dichloromethane (3×10 ml), and the combined org. layers were dried (Na2SO4), filtered and concentrated. Flash chromatography of the residue using 1:1 hexane-ethyl acetate as eluent, followed by concentration of the appropriate fractions and drying the residue in vacuum overnight, gave the product as a colorless syrup (0.407 g, 1.91 mmol, 96%).

reactant | 1-tert-butoxycarbonylamino-2-vinyl-cyclopropanecarboxylic acid ethyl ester | 2.0 mmol, 0.51 g | C(C)OC(=O)C1(C(C1)C=C)NC(=O)OC(C)(C)C | C13H21NO4
reactant | lithiumborohydride | 8 mmol, 4 ml | [BH4-].[Li+]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | ammoniummolybdate cerium sulfate | [NH4+].[NH4+].[O-][Mo](=O)(=O)[O-].S(=O)(=O)([O-])[O-].[Ce+3].S(=O)(=O)([O-])[O-].S(=O)(=O)([O-])[O-].[Ce+3]
product | (1-Hydroxymethyl-2-vinylcyclopropyl)-carbamic acid tert-butyl ester | 1.91 mmol, 0.407 g, 96% | C(C)(C)(C)OC(NC1(C(C1)C=C)CO)=O | C11H19NO3
